Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
urinary catheter insertion

 
History of Present Illness:
___ with h/o of BPH and recent prostate biopsy who is admitted 
with fever, UTI, urinary retention and severe diarrhea. 
.
Pt had prostate biopsy ___ in AM for eval of elevated PSA, he 
was started on PO bactrim on ___, day later developed fever to 
101.8 and urinary burning, went to the ___ ED on ___, UA was 
grossly positive, CBC showed leukocytosis to 19.3 with 84% Neu, 
rectal exam showed minimally tender prostate. He subsequently 
developed urinary retention in the ED and a foley was 
introduced. He was started on IV ceftriaxone, observed in the ED 
overnight and sent home ___ with the Foley and plan for 
urology f/u. The same evening he started developing diarrhea 
every 30 minutes which has been constant since. Stool is loose 
and yelowish, no blood or melena. BM are preceeded by rectal and 
distal penile pain, there is no abdominal pain. No N/V, CP, SOB. 
He reports that he has been on several courses of antibiotics 
over the past months, first in ___ following a hernia surgery 
and more recently two weeks ago had 7 dasy of amoxicilline in 
the setting of a tooth extraction followed by 4 days of Bactrim 
this week as above. He denies any recent suspicoious meals or 
sick contacts. His last travel was to ___ in ___ of this 
year. Today he spiked again to 101.0 and returned to the ED. In 
the ED VS were 100.8  129/76  111 18  96%RA, labs showed 
worsening leukocytosis to 22,000.  CT abdomen showed no evidence 
of colitis or diverticulitis.  He was started on IV cefepime + 
flagyl (18:53) and sent up to the floor. Of note lab called as 
he arrived to report growth of gram + cocci in clusters from one 
aerobic blood culture bottle drawn on ___.  
. 
On arrival to the floor, patient complains of continued frequent 
BM's now every 5 minutes. He denies abdominal pain, thirst, 
faintness/weakness. 
 
Past Medical History:
BPH
h/o urinary retention: following hernia surgery on ___ and 
now again after prostate bsopsy ___
s/p prostate biopsy ___ due to rise of PSA from 8 to 11 
in 6 months (no weightloss, bone pain, no family h/o of prostate 
ca)
 
Social History:
___
Family History:
Mother ___ Heart failure, died in her ___. Father died 
of leukemia in his ___. No cancer, sudden death or premature 
MI's. 
.
 
Physical Exam:
Admission Physical Exam:
VS - Temp 98.2F, BP 140/69 , HR 97 , R 20 , O2-sat 99% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate 
but had to run to bathroom once during our exam.   
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions    
NEURO - grossly intact

Discharge Physical Exam:
VS: 99.4 125/76 78 20 96% RA
GENERAL - well-appearing man in NAD, comfortable, appropriate
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - slightly distended, tympanic on percussion, mildly 
tender
GU: foley in place
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions    
Labs: reviewed, see below
 
Pertinent Results:
Admission Labs:
___ 12:35PM BLOOD WBC-23.5* RBC-4.47* Hgb-14.4 Hct-43.0 
MCV-96 MCH-32.3* MCHC-33.6 RDW-13.4 Plt ___
___ 12:35PM BLOOD Neuts-91.1* Lymphs-4.7* Monos-3.1 Eos-1.0 
Baso-0.1
___ 12:35PM BLOOD Glucose-109* UreaN-12 Creat-0.8 Na-138 
K-3.9 Cl-104 HCO3-23 AnGap-15
___ 12:35PM BLOOD Albumin-3.7
___ 12:38PM BLOOD Lactate-1.2

Discharge Labs:
___ 06:30AM BLOOD WBC-10.4 RBC-4.27* Hgb-13.6* Hct-41.0 
MCV-96 MCH-31.8 MCHC-33.1 RDW-13.3 Plt ___
___ 06:30AM BLOOD Glucose-99 UreaN-11 Creat-0.7 Na-141 
K-4.5 Cl-105 HCO3-25 AnGap-16

Urine Studies
___ 12:35PM URINE Color-Red Appear-Hazy Sp ___
___ 12:35PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 12:35PM URINE RBC->182* WBC-15* Bacteri-NONE Yeast-NONE 
Epi-0
___ 12:35PM URINE Mucous-MANY

Micro:
___ 12:35 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 1:20 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

Imaging:
CXR:
Patchy left basilar and right perihilar opacities may reflect 
atelectasis though infection is not excluded in the correct 
clinical setting.  Low lung volumes.

CT Abdomen/Pelvis:
No evidence of colitis or diverticulitis.  No other acute 
abdominal pathology to explain patient's symptoms. Left kidney 
simple cyst. Mild grade 1 retrolisthesis of L5 over S1.
 
Brief Hospital Course:
ASSESSMENT & PLAN:  ___ with h/o of BPH and recent prostate 
biopsy who presented with fever, UTI, urinary retention and 
severe diarrhea found to have leukocytosis and acute bacterial 
prostatitis.
.
ACTIVE ISSUES
# Leukocytosis: Initial presented with diarrhea and profound 
leukomoid reaction was concerning for C.diff related diarrhea. 
Stool assay was however negative. UTI was also considered a 
possibility however culture was negative. Ultimately given 
recent biopsy and associated pyuria, dyschezia and bladder 
spasms, leukocytosis seemed most consistent with acute bacterial 
prostatitis. Patient was tapered to ciprofloxacin. He will need 
to continue this medication until ___. CT scan did not show any 
evidence of prostatic abscess so surgical intervention was not 
entertained. 

# Urinary retention: Patient with history of BPH. On previous 
presentation to ED, patient presented with acute retention. This 
was after recent prostate biopsy. Per patient he had similar 
episode after herniorrhaphy. Voiding trial was attempted however 
patient failed and urinary catheter was replaced. Patient was 
discharged with catheter and close urology follow up. Of note 
patient was neurologically intact and thus there was little 
concern for sacral nerve damage.  Patient was continued on 
finasteride and flomax.

# Diarrhea: Patient presented with acute onset of multiple bowel 
movements. In the setting of profound leukocytosis, there was 
concern for C.diff related diarrhea however assay was negative. 
Stool culture was also negative for other enteric pathogens. 
After investigating this further, it appeared that patient was 
having increased urgency, dyschezia and tennesmus from local 
inflammation from prostate. Patient was started on ibuprofen and 
was given one dose of loperamide which controlled symptoms. 
Patient was advised that cipro may cause diarrhea and if it 
recurs, to contact medical providers.

TRANSITIONAL ISSUES:
[ ] Several blood cultures are pending at discharge. This will 
be followed up by discharging team. However, providers can also 
call ___, if results are needed.
[ ] Patient will have follow up with urology for voiding trial
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY Start: In am 
2. Tamsulosin 0.4 mg PO DAILY Start: In am 
hold for SBP 
< 100 

 
Discharge Medications:
1. Finasteride 5 mg PO DAILY 
2. Tamsulosin 0.4 mg PO DAILY 
hold for SBP 
< 100 
3. Acetaminophen 325-650 mg PO Q6H:PRN pain 
4. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*24 Tablet Refills:*0
5. Diazepam 2 mg PO Q6H:PRN spasms 
RX *diazepam 2 mg 1 tablet by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0
6. Ibuprofen 600 mg PO Q8H:PRN pain 
7. Loperamide 2 mg PO ONCE Duration: 1 Doses 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Prostatitis
Urinary Retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you had diarrhea and 
pain with defecation. We believe you have an infection of your 
prostate. You will be on antibiotics until We attempted to have 
the bladder catheter removed however you were unable to void on 
your own. As a result the catheter had to go in and you will 
need to follow up with urology on ___. The catheter will have 
to remain in until that time. You also complained of diarrhea. 
We checked it for C.diff and other infections and the results 
were negative. We believe this may have been related to the 
antibiotics you took and perhaps because of inflammation in the 
pelvic area.
 
Followup Instructions:
___